data/oMe_Silver.jsonl
{"reaction_id": "NR-109_1-c1ccc(C#N)cc1","name": "Hofmann Rearrangement","level": "medium","reactants_smiles": ["C(c1ccc(C#N)cc1)(=O)N","[OH-]","BrBr"],"products_smiles": ["N(c1ccc(C#N)cc1)"],"conditions": "NaOH, Br2","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C#N)cc1)(=O)[NH-]","rationale": "Strong base deprotonates the amide nitrogen, increasing its nucleophilicity and enabling subsequent electrophilic bromination."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(c1ccc(C#N)cc1)(=O)NBr","rationale": "The nucleophilic nitrogen attacks electrophilic bromine due to Br2 polarization in basic medium, forming an N-bromoamide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C#N)cc1)(=O)[N-]Br","rationale": "Base deprotonates the N–H of the N-bromoamide, generating a negatively charged nitrogen that facilitates rearrangement."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=Nc1ccc(C#N)cc1","rationale": "The electron-rich nitrogen promotes a 1,2-shift of c1ccc(C#N)cc1 from carbon to nitrogen, driven by formation of a stable isocyanate and expulsion of bromide."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(=C(O)[O-])c1ccc(C#N)cc1","rationale": "Hydroxide adds to the electrophilic carbon of the isocyanate, as the C=O is strongly polarized and susceptible to nucleophilic attack."},{"step": 6,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[NH-]c1ccc(C#N)cc1","rationale": "Collapse of the tetrahedral intermediate cleaves the C–N bond, releasing CO2 and forming an amide anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(c1ccc(C#N)cc1)","rationale": "The amide anion is protonated by water or solvent, yielding the primary amine product."}],"description": "Under strongly basic, oxidative conditions (NaOH, Br2), the amide undergoes Hofmann rearrangement. Bromination at nitrogen, followed by base-induced rearrangement, generates an isocyanate intermediate, which hydrolyzes to a primary amine with loss of the carbonyl carbon as CO2."}
{"reaction_id": "NR-321_1-CC(F)(F)F_2-C(=O)OC_3-c1ccc(C(F)(F)F)cc1","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["OCC(F)(F)F","BrC(C(=O)OC)c1ccc(C(F)(F)F)cc1","[Na][H]"],"products_smiles": ["C(OCC(F)(F)F)(C(=O)OC)c1ccc(C(F)(F)F)cc1"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]CC(F)(F)F","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(OCC(F)(F)F)(C(=O)OC)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
